US07323455B2
7-(3-Chloro-4-fluorophenyl)-5,5-di(2-furyl)-1,5-dihydro-4,1-benzoxazepin-2(H)-one
Prepared from 7-bromo-5,5-di(2-furyl)-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-chloro-4-fluoro benzeneboronic acid generally according to the coupling procedure of example 1. 1H NMR (DMSO-d6): δ 10.28 (s, 1H), 7.77 (dd, J=1.95, 0.98 Hz, 2H), 7.66 (dd, J=8.3, 1.95 Hz, 1H), 7.59 (dd, J=7.32, 2.44 Hz, 1H), 7.45 (dd, JHF=JHH=8.79 Hz, 1H), 7.33-7.36 (m, 1H), 7.32 (d, J=8.79 Hz, 1H), 6.89 (d, J=2.44 Hz, 1H), 6.51 (dd, J=3.42, 1.95 Hz, 2H), 6.27 (dd, J=3.42, 0.98 Hz, 2H), 4.17 (s, 2H); MS (ESI) m/z 422/424 ([M−H]−); Anal. calcd for C23H15ClFNO4: C: 65.18; H: 3.57; N: 3.30. Found: C: 64.16; H: 3.66; N: 2.78.

reactant | 7-bromo-5,5-di(2-furyl)-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2OC=CC2)C=2OC=CC2)C1 | C17H12BrNO4
reactant | 3-chloro-4-fluoro benzeneboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 7-(3-Chloro-4-fluorophenyl)-5,5-di(2-furyl)-1,5-dihydro-4,1-benzoxazepin-2(H)-one | C1C(=O)NC2=C(C=C(C=C2)C3=CC(=C(C=C3)F)Cl)C(O1)(C4=CC=CO4)C5=CC=CO5 | C23H15ClFNO4
